US07820707B2
e) 2-[2-(3-Trifluoromethyl-4,5,6,7-tetrahydroindazol-1-yl)-acetylamino]-4,5,6,7-tetrahydro-benzo[b]thiophene-3-carboxylic acid (2-dimethylamino-ethyl)-amide
2-[2-(3-Trifluoromethyl-4,5,6,7-tetrahydroindazol-1-yl)-acetylamino]-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxylic acid (50 mg, 0.117 mmol) was dissolved in a solution of DCM (2 mL) and DMF (0.4 mL). O-(7-azabenzotriazol-1-yl)-N,N′,N′,N′-tetramethyluronium hexafluorophosphate (54 mg, 0.141 mmol) was added, followed by N,N-dimethylethylenediamine (15.5 μL, 0.141 mmol) and N,N-diisopropylethylamine (24.6 μL, 0.141 mmol). The resultant mixture was stirred at RT overnight. The solvent was removed under reduced pressure, and the residue obtained purified by preparative reverse phase HPLC, to afford the title compound, a colourless oil, as the TFA salt (52 mg, 0.084 mmol, 72%).

reactant | 2-[2-(3-Trifluoromethyl-4,5,6,7-tetrahydroindazol-1-yl)-acetylamino]-4,5,6,7-tetrahydrobenzo[b]thiophene-3-carboxylic acid | 0.117 mmol, 50 mg | FC(C1=NN(C=2CCCCC12)CC(=O)NC1=C(C2=C(S1)CCCC2)C(=O)O)(F)F | C19H20F3N3O3S
reactant | N,N-dimethylethylenediamine | 0.141 mmol, 15.5 μL | CN(CCN)C | C4H12N2
reactant | N,N-diisopropylethylamine | 0.141 mmol, 24.6 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.4 mL | CN(C)C=O | C3H7NO
product | 2-[2-(3-Trifluoromethyl-4,5,6,7-tetrahydroindazol-1-yl)-acetylamino]-4,5,6,7-tetrahydro-benzo[b]thiophene-3-carboxylic acid (2-dimethylamino-ethyl)-amide | CN(CCNC(=O)C=1C2=C(SC1NC(CN1N=C(C=3CCCCC13)C(F)(F)F)=O)CCCC2)C | C23H30F3N5O2S
